US04659728
Rf 0.50 silica gel 60 F254 chloroform:methylisobutylketone:acetic acid 50:50:1 A mixed melting point run with an authentic sample of the methyl ether of 4-(4-hydroxyphenyl)-5-phenyl-2-oxazolepropanoic acid (obtained from the metabolite of oxaprozin as disclosed by Janssen et al., Drug Metabolism and Disposition, 6, 495 (1978)), gave m.p. 92°-108° C., clearly demonstrating the lack of identity with the known metabolite. This, coupled with the identity of the 4'-methoxybenzoin starting material characterized the methyl ether as 5-(4-methoxy)-4-phenyl-2-oxazolepropanoic acid.

reactant | methyl ether | COC | C2H6O
reactant | 4-(4-hydroxyphenyl)-5-phenyl-2-oxazolepropanoic acid | OC1=CC=C(C=C1)C=1N=C(OC1C1=CC=CC=C1)CCC(=O)O | C18H15NO4
solvent | chloroform methylisobutylketone acetic acid | C(Cl)(Cl)Cl.CC(=O)CC(C)C.C(C)(=O)O
product | oxaprozin | C=1C=CC(=CC1)C2=C(OC(=N2)CCC(=O)O)C=3C=CC=CC3 | C18H15NO3
